### PR TITLE
[Merged by Bors] - feat(Dynamics/TopologicalEntropy): Topological entropy and subsets

### PR DESCRIPTION
**Pull request by D-Thomine**
This file implements basic facts about the topological entropy of subsets of a dynamical system: monotonicity, closure, unions.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Dynamics/TopologicalEntropy/Subset.lean [hunk 1]
```diff
@@ -0,0 +1,218 @@
...
+  obtain ⟨s, s_cover, s_coverMincard⟩ := (coverMincard_finite_iff T F U n).1 hF
+  obtain ⟨t, t_cover, t_coverMincard⟩ := (coverMincard_finite_iff T G U n).1 hG
+  rw [← s_coverMincard, ← t_coverMincard, ← ENat.coe_add]
+  apply (IsDynCoverOf.coverMincard_le_card _).trans (WithTop.coe_mono (s.card_union_le t))
+  rw [s.coe_union t]
+  exact s_cover.union t_cover
+
+lemma coverEntropyEntourage_union {T : X → X} {F G : Set X} {U : Set (X × X)} :
+    coverEntropyEntourage T (F ∪ G) U
+      = coverEntropyEntourage T F U ⊔ coverEntropyEntourage T G U := by
```
Comment (sgouezel) [inline Mathlib/Dynamics/TopologicalEntropy/Subset.lean:166]:
```suggestion
      = max (coverEntropyEntourage T F U) (coverEntropyEntourage T G U) := by
```
over linear orders, we favor `max` and `min` over the weird lattice notations. Same thing below.

File: Mathlib/Dynamics/TopologicalEntropy/Subset.lean [hunk 2]
```diff
@@ -0,0 +1,218 @@
...
+  iSup₂_le fun _ i_s ↦ coverEntropy_monotone T (subset_biUnion_of_mem i_s)
+
+/-- Topological entropy `CoverEntropy T` as a `SupBotHom` function of the subset. -/
+noncomputable def coverEntropy_supBotHom (T : X → X) :
+    SupBotHom (Set X) EReal where
+  toFun := coverEntropy T
+  map_sup' := fun _ _ ↦ coverEntropy_union
+  map_bot' := coverEntropy_empty
+
+lemma coverEntropy_finite_iUnion [Finite ι] {T : X → X} {F : ι → Set X} :
```
Comment (sgouezel) [inline Mathlib/Dynamics/TopologicalEntropy/Subset.lean:204]:
```suggestion
lemma coverEntropy_iUnion_of_finite [Finite ι] {T : X → X} {F : ι → Set X} :
```

File: Mathlib/Dynamics/TopologicalEntropy/Subset.lean [hunk 3]
```diff
@@ -0,0 +1,218 @@
...
+    coverEntropy T (⋃ i : ι, F i) = ⨆ i : ι, coverEntropy T (F i) :=
+  map_finite_iSup (coverEntropy_supBotHom T) F
+
+lemma coverEntropy_finite_biUnion {T : X → X} {F : ι → Set X} {s : Finset ι} :
```
Comment (sgouezel) [inline Mathlib/Dynamics/TopologicalEntropy/Subset.lean:208]:
```suggestion
lemma coverEntropy_biUnion_finset {T : X → X} {F : ι → Set X} {s : Finset ι} :
```

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks!

File: Mathlib/Dynamics/TopologicalEntropy/DynamicalEntourage.lean [hunk 4]
```diff
@@ -63,6 +63,14 @@ lemma dynEntourage_mem_uniformity [UniformSpace X] {T : X → X} (h : UniformCon
   rw [map_iterate T T k]
   exact uniformContinuous_def.1 (UniformContinuous.iterate T k h) U U_uni
 
+lemma ball_dynEntourage_mem_nhds [UniformSpace X] {T : X → X} (h : Continuous T) {U : Set (X × X)}
+    (U_uni : U ∈ 𝓤 X) (n : ℕ) (x : X) :
+    ball x (dynEntourage T U n) ∈ nhds x := by
```
[the remark this answers is not in the document]
Comment (D-Thomine) [reply Mathlib/Dynamics/TopologicalEntropy/DynamicalEntourage.lean]: Done, thanks!

File: Mathlib/Dynamics/TopologicalEntropy/Subset.lean [hunk 5]
```diff
@@ -0,0 +1,218 @@
+/-
+Copyright (c) 2025 Damien Thomine. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Damien Thomine
+-/
+import Mathlib.Dynamics.TopologicalEntropy.NetEntropy
+
+/-!
+# Topological entropy of subsets: monotonicity, closure, union
+This file contains general results about the topological entropy of various subsets of the same
```
[the remark this answers is not in the document]
Comment (D-Thomine) [reply Mathlib/Dynamics/TopologicalEntropy/Subset.lean:11]: Done.

File: Mathlib/Dynamics/TopologicalEntropy/Subset.lean (hunk 3 above)
Comment (D-Thomine) [reply Mathlib/Dynamics/TopologicalEntropy/Subset.lean]: Done.

File: Mathlib/Dynamics/TopologicalEntropy/Subset.lean (hunk 2 above)
Comment (D-Thomine) [reply Mathlib/Dynamics/TopologicalEntropy/Subset.lean]: Done.

**Comment by D-Thomine** [comment]
bord r+
